US05214058
To a suspension of 10% Pd/C (1.5 g) in 50 ml ethanol in a 500 ml Parr hydrogenation bottle, was added a suspension of 5-phenylmethoxy-1-(4-pyridinylmethyl)-1H-indole in 200 ml ethanol. The mixture was shaken at 50° C. under 50 psi hydrogen for one hour, then cooled, filtered, and the filtrate evaporated to a solid, 10 g, dec. 178° C. A sample of this material was eluted on a silica gel column with 2% methanol/dichloromethane via HPLC. The desired fractions were combined and evaporated to yield 2.3 g of 1-(4-pyridinylmethyl)-1H-indol-5-ol, as a solid, m.p. 185°-186° C.

reactant | 5-phenylmethoxy-1-(4-pyridinylmethyl)-1H-indole | C1(=CC=CC=C1)COC=1C=C2C=CN(C2=CC1)CC1=CC=NC=C1 | C21H18N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 1-(4-pyridinylmethyl)-1H-indol-5-ol | 2.3 g | N1=CC=C(C=C1)CN1C=CC2=CC(=CC=C12)O | C14H12N2O
